US06713471B1
3-Methoxybenzyl methanesulfonate.
The title compound was prepared by following the general procedure of Example 43 for mesylation as a colorless oil (292 mg, 93%) from 3-methoxybenzyl alcohol (200 mg, 1.45 mmol) and methanesulfonyl chloride (249 mg, 2.17 mmol). 1H NMR (CDCl3, 300 MHz) δ2.92 (s, 3H), 3.83 (s, 3H), 5.22 (s, 2H), 6.90-7.03 (m, 3H), 7.32 (t, 1H, J=7.7 Hz) ppm.

reactant | 3-methoxybenzyl alcohol | 1.45 mmol, 200 mg | COC=1C=C(CO)C=CC1 | C8H10O2
reactant | methanesulfonyl chloride | 2.17 mmol, 249 mg | CS(=O)(=O)Cl | CH3ClO2S
product | 3-Methoxybenzyl methanesulfonate | CS(=O)(=O)OCC1=CC(=CC=C1)OC | C9H12O4S
